US03975535
7-Methoxyisocoumarin-3-carboxylic acid, mp. (EtOH) 280°-3°, (Found: C, 60.11; H, 3.93. C11H8O5 requires C, 60.00; H, 3.66) was prepared from 2-carboxy-4-methoxybenzaldehyde by an analogous procedure to that described in Example 1.

reactant | 2-carboxy-4-methoxybenzaldehyde | C(=O)(O)C1=C(C=O)C=CC(=C1)OC | C9H8O4
solvent | EtOH | CCO | C2H6O
product | 7-Methoxyisocoumarin-3-carboxylic acid | COC1=CC=C2C=C(OC(=O)C2=C1)C(=O)O | C11H8O5
